*$
* PART NUMBER: NJM1458
* MANUFACTURER: NEW JAPAN RADIO
* All Rights Reserved Copyright (c) Bee Technologies Inc. 2006
.Subckt NJM1458 OUT1 -IN1 +IN1 VEE +IN2 -IN2 OUT2 VCC
X_U1     +IN1 -IN1 VCC VEE OUT1 NJM1458_ME
X_U2     +IN2 -IN2 VCC VEE OUT2 NJM1458_ME
.ends  NJM1458
.subckt NJM1458_ME 1 2 3 4 5
  c1   11 12 8.6603E-12
  c2    6  7 30.000E-12
  dc    5 53 dy
  de   54  5 dy
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 42.342E6 -1E3 1E3 42E6 -42E6
  ga    6  0 11 12 207.35E-6
  gcm   0  6 10 99 6.5568E-9
  iee  10  4 dc 15.060E-6
  hlim 90  0 vlim 1K
  q1   11  2 13 qx1
  q2   12  1 14 qx2
  r2    6  9 100.00E3
  rc1   3 11 4.8229E3
  rc2   3 12 4.8229E3
  re1  13 10 1.3689E3
  re2  14 10 1.3689E3
  ree  10 99 13.280E6
  ro1   8  5 50
  ro2   7 99 25
  rp    3  4 1.8016E3
  vb    9  0 dc 0
  vc    3 53 dc 3.7471
  ve   54  4 dc 3.7471
  vlim  7  8 dc 0
  vlp  91  0 dc 2.8000
  vln   0 92 dc 2.8000
.model dx D(Is=800.00E-18)
.model dy D(Is=800.00E-18 Rs=1m Cjo=10p)
.model qx1 NPN(Is=800.00E-18 Bf=230.77)
.model qx2 NPN(Is=1.008877E-15 Bf=272.73)
.ends
*$
